Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
Penicillins / morphine
 
Attending: ___.
 
Chief Complaint:
- left adrenal mass, suspected pheochromocytoma
 
Major Surgical or Invasive Procedure:
___: left laparoscopic adrenalectomy

 
History of Present Illness:
___ y/o female p/w RUQ pain, underwent abd u/s showing gallstones 
and incidental left adrenal mass. On review pt did endorse 
headaches and sweats as well as hypertension, flushing, 
palpitations, and dyspnea; she underwent endocrine workup 
suggestive of pheochromocytoma. After alpha and beta blockade 
were established she was taken to the ___ for left laparoscopic 
adrenalectomy on ___.
 
Past Medical History:
- diverticulosis
- no abdominal surgeries
 
Social History:
___
Family History:
Negative for kidney or bladder cancer.
 
Physical Exam:
- WDWN, AAOx4, NAD
- breathing unlabored on RA
- skin WWP
- abd soft, NT, ND; port sites c/d/i
- no peripheral edema or calf tenderness
 
Pertinent Results:
___ 07:40AM BLOOD WBC-8.7 RBC-3.08* Hgb-9.1* Hct-28.9* 
MCV-94 MCH-29.5 MCHC-31.5* RDW-15.7* RDWSD-53.2* Plt ___

___ 07:40AM BLOOD Glucose-77 UreaN-10 Creat-0.5 Na-139 
K-3.6 Cl-102 HCO3-27 AnGap-14
 
Brief Hospital Course:
Ms. ___ was admitted to the urology service after undergoing 
laparoscopic left adrenalectomy. No concerning intraoperative 
events occurred; please see the dictated operative note for 
details. Prior to surgery, alpha and beta blockade had been 
established with phenoxybenzamine and propranolol.  She received 
perioperative antibiotic prophylaxis and after surgery was 
recovered in the PACU and subsequently transferred to the 
surgical floor in stable condition.

On POD 0, her pain was controlled on PCA and she was hydrated 
for urine output >30cc/hour and provided with pneumoboots and 
incentive spirometry for prophylaxis. She ambulated once on the 
night of surgery. 

On POD 1, a basic metabolic panel and complete blood count were 
checked and she was converted from PCA to oral analgesics. She 
tolerated a regular diet the morning of POD 1. Her pain was well 
controlled and she was hemodynamically stable. Her Foley 
catheter was removed and she voided without difficulty. 
Phenoxybenzamine was discontinued; propranolol was continued at 
a reduced dose.

She was discharged home on the afternoon of POD 1 in good 
condition. With regard to her blood pressure regimen, she was 
instructed to discontinue amlodipine and phenoxybenzamine. Her 
HCTZ was continued, as was propranolol at a reduced dose. She 
was instructed to follow up with Dr. ___ in approximately 
four weeks, with the endocrinology service at their discretion, 
and with her PCP ___ ___ days for a blood pressure check and 
post-hospitalization visit.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Naproxen 500 mg PO BID:PRN Pain - Mild 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. BusPIRone ___ mg PO BID:PRN anxiety 
5. Phenoxybenzamine HCl 30 mg po BID 
6. Propranolol ___ mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0 
4.  Propranolol ___ mg PO BID 
Change to 10 mg morning and 10 mg evening.  
5.  BusPIRone ___ mg PO BID:PRN anxiety  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Naproxen 500 mg PO BID:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- left renal mass, likely pheochromocytoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
*STOP Phenoxybenzamine as it is NO LONGER NEEDED.

-IT IS IMPERATIVE that you continue to monitor your BP at least 
two times per day and keep track of this in your log book. 
Contact your Endocrinologist  to arrange f/u in ___ days unless 
otherwise explicitly advised.  Present the log book to your PCP 
and ___. 

-Symptoms of blood pressure TOO HIGH or TOO LOW should be noted 
and reported to your clinician (Endocrinologist or PCP or 
___ immediately. Examples include headache, dizziness, 
palpitations, lightheadedness, blurred vision, etc. or "near 
fainting" type of symptoms. 

- You will be discharged home on some or all of your 
pre-admission anti-hypertension medications.  Do NOT restart 
other blood pressure medications without consulting with your 
endocrinologist.

-Please also refer to the provided “handout” that details 
instructions and expectations for your post-operative phase as 
made available by Dr. ___ office.

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ reduce the strain/pressure on your abdomen and incision 
sites; remember to “log roll” onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called “steristrips” which have 
been applied to reinforce wound closure.  Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-Please AVOID aspirin or aspirin containing products and 
supplements that may have “blood-thinning” effects (like Fish 
Oil, Vitamin E, etc.) unless you have otherwise been advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control.  For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

Ibuprofen is in the same drug family as naproxen. Do not take 
ibuprofen if you are taking naproxen and vice versa.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Call your Urologist's office to schedule/confirm your follow-up 
appointment in 4 weeks AND if you have any questions.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___. 
REPLACE the Tylenol with this narcotic pain medication if 
additional pain control is needed..

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up and/or 
as directed in the “handout”

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool-softener, NOT a laxative

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___